US08975443B2
4-Nitrobenzonitrile
In a nitrogen-atmosphere glovebox, a microwave vial equipped with a magnetic stir bar was charged with 4-chlorobenzonitrile (100 mg, 0.727 mmol, 1 equivalent), sodium nitrite (100 mg, 1.45 mmol, 2 equivalents), tris(dibenzylideneacetone)dipalladium(0) (Pd2dba3) (6.7 mg, 0.00727 mmol, 0.01 equivalents) and phosphine ligand (0.017 mmol, 0.024 equivalents). The solids were slurried in t-butyl alcohol (1.3 mL) before adding tris[2-(2-methoxyethoxy)ethyl]amine (TDA-1) (12 μL, 0.036 mmol, 0.05 equivalents). The vial was sealed with a crimp top and placed in a heating block at 130° C. After 24 hours, the reaction vial was cooled to room temperature and brought out of the glovebox. The reaction solution was diluted with tetrahydrofuran (2 mL) and filtered through a pad of diatomaceous earth into a tared 125-mL Erlenmeyer flask. The vial was rinsed with tetrahydrofuran (3×1 mL) before the filter cake was washed with tetrahydrofuran (2 mL). A wt % analysis was performed on the filtrate and an assay yield was measured (literature reference: Fors B P, et al. J. Am. Chem. Soc. 2009; 131: 12898-12899).

reactant | 4-chlorobenzonitrile | 0.727 mmol, 100 mg, 1 equivalent | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | sodium nitrite | 1.45 mmol, 100 mg, 2 equivalents | N(=O)[O-].[Na+]
reactant | phosphine | 0.017 mmol, 0.024 equivalents | P | H3P
reactant | tris[2-(2-methoxyethoxy)ethyl]amine | 0.036 mmol, 12 μL, 0.05 equivalents | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
solvent | t-butyl alcohol | 1.3 mL | C(C)(C)(C)O | C4H10O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.00727 mmol, 6.7 mg, 0.01 equivalents | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-Nitrobenzonitrile | [N+](=O)([O-])C1=CC=C(C#N)C=C1 | C7H4N2O2
